US04935432
To a stirred solution of ethyl 5-[4-{(2-methoxyethoxy)methoxy}-3,5-dimethylphenyl]-(2E,4E)-2,4-pentadienoate (5.28 g) in methanol (55 ml) was added a solution of sodium hydroxide (6.32 g) in water (18 ml) below 20° C. After being stirred for an hour, the reaction mixture was concentrated under reduced pressure. The residue was dissolved in water (200 ml) and adjusted to pH 4 with 10% hydrochloride solution. The resulting precipitate was collected by filtration and washed with water to give yellowish powder of 5-[4-{(2-methoxyethoxy)methoxy}-3,5-dimethylphenyl]-(2E,4E)-2,4-pentadienoic acid (4.13 g).

reactant | ethyl 5-[4-{(2-methoxyethoxy)methoxy}-3,5-dimethylphenyl]-(2E,4E)-2,4-pentadienoate | 5.28 g | COCCOCOC1=C(C=C(C=C1C)/C=C/C=C/C(=O)OCC)C | C19H26O5
reactant | sodium hydroxide | 6.32 g | [OH-].[Na+]
solvent | methanol | 55 ml | CO | CH4O
solvent | water | 18 ml | O | H2O
product | 5-[4-{(2-methoxyethoxy)methoxy}-3,5-dimethylphenyl]-(2E,4E)-2,4-pentadienoic acid | 4.13 g | COCCOCOC1=C(C=C(C=C1C)/C=C/C=C/C(=O)O)C | C17H22O5
